US07807677B2
[(1S)-1-(N′-Benzyl-hydrazinocarbonyl)-2,2-dimethyl-propyl]-carbamic acid methyl ester (6)
The general procedure for the preparation of hydrazides described above was followed using N-(methoxycarbonyl)-(L)-tert-leucine (J. Med. Chem., 41, 3387-3401, 1998) (1.56 g, 8.24 mmol), EDAC (1.74 g, 9.08 mmol), HOBT (1.22 g, 9.03 mmol), NMM (0.995 mL, 9.05 mmol), benzylhydrazine×2HCl (1.61 g, 8.25 mmol) and Et3N (2.53 mL, 18.0 mmol) which gave the title compound (1.21 g, 50%) as a light yellow solid.

reactant | N-(methoxycarbonyl)-(L)-tert-leucine | 8.24 mmol, 1.56 g | COC(=O)N[C@@H](C(C)(C)C)C(=O)O | C8H15NO4
reactant | EDAC | 9.08 mmol, 1.74 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 9.03 mmol, 1.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 9.05 mmol, 0.995 mL | CN1CCOCC1 | C5H11NO
reactant | benzylhydrazine | C(C1=CC=CC=C1)NN | C7H10N2
reactant | Et3N | 18.0 mmol, 2.53 mL | CCN(CC)CC | C6H15N
product | [(1S)-1-(N′-Benzyl-hydrazinocarbonyl)-2,2-dimethyl-propyl]-carbamic acid methyl ester | 1.21 g, 50% | COC(N[C@@H](C(C)(C)C)C(=O)NNCC1=CC=CC=C1)=O | C15H23N3O3
